US04855430
3-[3-[4-(3-Chlorophenyl)-1-piperazinyl]propyl]-3-azabicyclo[3.2.2]nonane, dihydrochloride
To a stirred solution of 3-azabicyclo[3.2.2]nonane, (4 g, 0.032 mol), sodium carbonate (4 g, 0.045 mol) and triethylamine 3 mL in 50 mL of dimethylformamide is added 4-(3-chlorophenyl)-1-piperazinylpropylchloride hydrochloride (4 g, 0.0115 mol). The reaction mixture is stirred at room temperature overnight, the solvent is removed under vacuum and the remaining solid is extracted in 3×100 mL methylene chloride. The methylene chloride extracts are collected, dried over anhydrous sodium sulfate and evaporated under reduced pressure.

reactant | 3-azabicyclo[3.2.2]nonane | 0.032 mol, 4 g | C12CNCC(CC1)CC2 | C8H15N
reactant | sodium carbonate | 0.045 mol, 4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(3-chlorophenyl)-1-piperazinylpropylchloride hydrochloride | 0.0115 mol, 4 g | Cl.ClC=1C=C(C=CC1)N1CCN(CC1)C(CC)Cl
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-[3-[4-(3-Chlorophenyl)-1-piperazinyl]propyl]-3-azabicyclo[3.2.2]nonane, dihydrochloride | Cl.Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCCN1CC2CCC(C1)CC2 | InChI=1S/C21H32ClN3.2ClH/c22-20-3-1-4-21(15-20)25-13-11-23(12-14-25)9-2-10-24-16-18-5-6-19(17-24)8-7-18;;/h1,3-4,15,18-19H,2,5-14,16-17H2;2*1H
